US07678818B2
Preparation of 5-ethyl-2-methylamino-nicotinic acid ethyl ester
A solution of 5-bromo-2-methylamino-nicotinic acid ethyl ester (400 mg, 1.54 mmol), diethylzinc solution (1 M in hexane, 3.1 mL, 3.1 mmol), and dichloro[1,1′-bis(diphenylphosphine)ferrocene]palladium(II) (34 mg, 46 μmol) in 1,4-dioxane was heated at reflux for 2 h, then partitioned between ethyl acetate and sat. aq. ammonium chloride solution. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (48 mg, 15%). Colourless liquid, MS (ISP): 209.3 (M+H)+.

reactant | 5-bromo-2-methylamino-nicotinic acid ethyl ester | 1.54 mmol, 400 mg | C(C)OC(C1=C(N=CC(=C1)Br)NC)=O | C9H11BrN2O2
reactant | diethylzinc | 3.1 mmol, 1 M, 3.1 mL | C(C)[Zn]CC
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-ethyl-2-methylamino-nicotinic acid ethyl ester | 48 mg, 15% | C(C)OC(C1=C(N=CC(=C1)CC)NC)=O | C11H16N2O2
